### PR TITLE
Limits of shifted cochains

### PR DESCRIPTION
**Pull request by siddharthist**
Another lemma from [Non-wellfounded trees](https://arxiv.org/abs/1504.02949). I would appreciate any suggestions on simplifying the proof, it seems unnecessarily long for a somewhat simple result.

### CODE REVIEW

File: UniMath/Induction/M/Chains.v [hunk 1]
```diff
@@ -0,0 +1,270 @@
...
+
+
+(** We use the following tactic notations to mirror the "equational style" of
+    reasoning used in Ahrens, Capriotti, and Spadotti. *)
+Local Tactic Notation "≃" constr(H) "by" tactic(t) := intermediate_weq H; [t|].
+Local Tactic Notation "≃'" constr(H) "by" tactic(t) := intermediate_weq H; [|t].
+Local Tactic Notation "≃" constr(H) := intermediate_weq H.
+Local Tactic Notation "≃'" constr(H) := apply invweq; intermediate_weq H.
+
+Lemma dirprod_with_contr : ∏ X Y : UU, iscontr X -> (Y ≃ Y × X).
```
Comment (benediktahrens) [inline UniMath/Induction/M/Chains.v]: Could you put this in MoreFoundations?

File: UniMath/Induction/M/Chains.v [hunk 2]
```diff
@@ -0,0 +1,270 @@
...
+Proof.
+  intros X Y iscontrX.
+  ≃ (Y × unit) by (apply weqtodirprodwithunit).
+  - apply weqdirprodf.
+    * apply idweq.
+    * apply invweq, weqcontrtounit; assumption.
+Defined.
+
+(** TODO: can this be derived from [weqtotal2comm12] or similar? *)
+Definition weqtotal2comm {A B : UU} {C : A → B → UU} :
```
Comment (benediktahrens) [inline UniMath/Induction/M/Chains.v]: To MoreFoundations? I don't find the name very descriptive, but have trouble coming up with a better one :-)

**Comment by siddharthist** [comment]
@benediktahrens Agreed, will do. Thanks for the review!

**Comment by siddharthist** [comment]
I've split off those weak equivalences into a new file in `MoreFoundations`. This file might be a good home for some of the lemmas in `Ktheory.Utilities`.
